US07312208B2
Step a: Synthesis of methyl 2-aminoheptanoate hydrochloride
To a suspension of 2.18 g of 2-aminoheptanoic acid in 50 ml of methanol was dropwise added 2.19 g of thionyl chloride (manufactured by WAKO PURE CHEMICAL INDUSTRIES LTD.), and the mixture was stirred overnight at 60° C. Methanol and thionyl chloride were removed by evaporation and the residue was washed with 20 ml of ether to obtain 2.84 g of the title compound.

reactant | 2-aminoheptanoic acid | 2.18 g | NC(C(=O)O)CCCCC | C7H15NO2
reactant | thionyl chloride | 2.19 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | methyl 2-aminoheptanoate hydrochloride | 2.84 g | Cl.NC(C(=O)OC)CCCCC | InChI=1S/C8H17NO2.ClH/c1-3-4-5-6-7(9)8(10)11-2;/h7H,3-6,9H2,1-2H3;1H
